* Z:\home\CuadradoGris\Documents\TDCE\Regulador_MOS.asc
* Generated by LTspice 26.0.2 for Windows.
R1 N010 0 10k
Q2 N012 N013 0 0 BC547C
Q4 N013 N013 0 0 BC547C
Q5 N003 VB N001 0 BC857C
Q6 VB VB N002 0 BC857C
Q3 VB N010 N012 0 BC547C
Q7 N003 IN N012 0 BC547C
X§U1 0 IN IN TL431 ;§pnba A)K)ref
Rz IN CC 1k
R4 IN N013 1k8
Rs N007 OUT 0.1
R5 N004 0 39k
R6 N004 0 39k
R7 N004 N007 1k
R8 N009 OUT 1k
R9 N009 OUT 39k
R10 N009 IN 39k
R11 N009 0 390k
X§U2 N009 N004 CC 0 N005 LM358 ;§pnba In+)In-)V+)V-)OUT
M1 N007 N003 CC CC IRF9Z34N
V2 CC 0 12
R13 CC N001 100
R14 CC N002 100
R3 OUT N010 10k
RF1 N005 N004 390k
R15 N008 N005 1k
R16 CC N006 1k
R2 OUT 0 {RL}
Q1 VB N008 N006 0 BC557C
.model NPN NPN
.model PNP PNP
.lib C:\users\CuadradoGris\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\CuadradoGris\AppData\Local\LTspice\lib\cmp\standard.mos
.step param RL 0.0001 100 0.1
;tran 0 50m startup
.op
;ac dec 100 10 10Meg
.include IRF9Z34N.mod
* Library below included based on ModelFile attribute of instance X§U2 (Z:\home\CuadradoGris\Documents\TDCE\lm358.asy)
.lib LM358.MOD
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\CuadradoGris\Documents\TDCE\TL431.asy)
.lib TL431.mod
.backanno
.end
