* Z:\home\CuadradoGris\Documents\TDCE\Regulador_MOS.asc
* Generated by LTspice 26.0.2 for Windows.
R1 N013 0 10k
Q2 N017 N020 0 0 BC547C
Q4 N020 N020 0 0 BC547C
Q5 N005 N006 N003 0 BC857C
Q6 N006 N006 N004 0 BC857C
Q3 N006 N014 N018 0 BC547C
Q7 N005 IN N016 0 BC547C
X§U1 0 IN IN TL431 ;§pnba A)K)ref
Rz IN CC 1k
R4 IN N020 1k8
Rs N011 OUT 0.1
M1 N011 N005 CC CC IRF9Z34N
VIN CC 0 {VINDC} AC {VINAC}
R13 CC N003 2.2
R14 CC N004 2.2
R3 OUT N013 10k
RL OUT 0 50
R2 N001 0 39k
R5 N001 0 39k
R6 N001 N009 1k
R7 N010 N012 1k
R8 N010 N012 39k
R9 N010 IN 39k
R10 N010 0 390k
X§U2 N010 N001 CC 0 N002 LM358 ;§pnba In+)In-)V+)V-)OUT
RF1 N002 N001 390k
R11 N008 N002 1k
R12 CC N007 1k
Q1 VB N008 N007 0 BC557C
C1 N011 N005 2.2n
C2 OUT N013 820p
L1 N014 N013 1Meg
C3 N014 N019 1Meg
V1 N019 0 0 AC 1 0
C4 OUT 0 15µ
R15 N018 N017 1.5k
R16 N017 N016 1.5k
.model NPN NPN
.model PNP PNP
.lib C:\users\CuadradoGris\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\CuadradoGris\AppData\Local\LTspice\lib\cmp\standard.mos
.step param RL 1 4 0.1
* .op
* Mido regulacion de linea
;.meas DC Vo1rl FIND V(out) AT=12
;.meas DC Vo2rl FIND V(out) AT=24
;.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* Mido regulacion de carga
;.meas OP Vo1rc FIND V(Vo) AT 100
;.meas OP Vo2rc FIND V(Vo) AT 5
;.meas OP Io1rc FIND I(RL) AT 100
;.meas OP Io2rc FIND I(RL) AT 5
* Mido eficiencia
.param VINDC 7
.param VINAC 0
;.meas eficiencia PARAM -100*((V(out)*I(RL))/(V(CC)*I(VIN)))
.ac dec   10  1 1G
.include IRF9Z34N.mod
* Library below included based on ModelFile attribute of instance X§U2 (Z:\home\CuadradoGris\Documents\TDCE\lm358.asy)
.lib LM358.MOD
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\CuadradoGris\Documents\TDCE\TL431.asy)
.lib TL431.mod
.backanno
.end
